US06930120B2
2-Methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-2-o-tolyloxy-propionic acid
The title compound was prepared using the representative Standard Procedure (E) from 3-(4-Hydroxyphenyl)-2-methyl-2-o-tolyloxy-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester. 1H NMR (400 MHz, CDCl3): • 7.59 (dd, 1H, J=3.91 Hz, 1.17 Hz), 7.36 (dd, 1H, J=3.91 Hz, 1.17 Hz), 7.14-7.11 (m, 3H), 7.08-7.04 (m, 2H), 6.91 (t, 1H, J=7.43 Hz), 6.82-6.77 (m, 3H), 4.15 (t, 2H, J=6.65 Hz), 3.25 (d, 1H, J=14.08 Hz), 3.19 (d, 1H, J=14.08 Hz), 2.94 (t, 2H, J=6.65 Hz), 2.33 (s, 3H), 2.17 (s, 3H, 1.48 (s, 3H). MS [ES+] m/z exact mass calcd for C27H28NO5S 478.1688, found 478.1676.

reactant | 3-(4-Hydroxyphenyl)-2-methyl-2-o-tolyloxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=C(C=CC=C1)C)C)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | 2-Methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-2-o-tolyloxy-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1SC=CC1)OC1=C(C=CC=C1)C | C27H27NO5S
